US04775675
EXAMPLE 27 3-Acetyl-5,5-dimethyl-2(S)-phenylthiazolidine-4(S)-carboxylic acid
0.47 g (2 mmoles) of 5,5-dimethyl-2(S)-phenylthiazolidine-4(S)-carboxylic acid is suspended in 5 ml of pyridine while stirring. The temperature of the suspension is adjusted to 5° C. by cooling with ice-water and 0.17 g of acetyl chloride is dropped in. The mixture is stirred for 1 additional hour, then poured in 60 ml of ice-cold 2N sulphuric acid. After several hours, the precipitated product is filtered out, washed with water and dried. The product is dissolved in ethanol and water is added to precipitate the title compound in a yield of 0.38 g (70.3%), m.p.: 216°-217° C., [α]D20 =-109° (c=0.686, methanol).

reactant | 5,5-dimethyl-2(S)-phenylthiazolidine-4(S)-carboxylic acid | 2 mmoles, 0.47 g | CC1([C@@H](N[C@@H](S1)C1=CC=CC=C1)C(=O)O)C | C12H15NO2S
reactant | acetyl chloride | 0.17 g | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-Acetyl-5,5-dimethyl-2(S)-phenylthiazolidine-4(S)-carboxylic acid | C(C)(=O)N1[C@@H](SC([C@@H]1C(=O)O)(C)C)C1=CC=CC=C1 | C14H17NO3S
